US05767116
1-(1,4-Benzodioxan-5-yl)-4-carbamoylpyridinium chloride (2.0 g) was added to 10% palladium-on-carbon catalyst (1.8 g) under nitrogen. Ammonium formate (3.5 g) was added and the resulting mixture was stirred while methanol (35 ml) was added dropwise. The resulting mixture was heated under reflux for 3.5 hours. Ammonium formate which crystallised in the condenser was washed back in with methanol (35 ml). The mixture was cooled and filtered (Celite) under nitrogen. The filtrate was basified by the addition of solid sodium hydrogen carbonate and the solvent removed in vacuo. The residue was diluted with water (100 ml) and the product extracted into dichloromethane (3×100 ml). The combined extracts were washed with water (100 ml), dried over magnesium sulphate, filtered and the solvent removed in vacuo to give 1-(1,4-benzodioxan-5-yl) piperidine-4-carboxamide as a white solid (1.27 g), m.p. ~194° C.

reactant | 1-(1,4-Benzodioxan-5-yl)-4-carbamoylpyridinium chloride | 2.0 g | [Cl-].O1CCOC2=C1C=CC=C2[N+]2=CC=C(C=C2)C(N)=O
reactant | Ammonium formate | 3.5 g | C(=O)[O-].[NH4+]
catalyst | palladium-on-carbon | 1.8 g | [Pd] | Pd
solvent | methanol | 35 ml | CO | CH4O
product | 1-(1,4-benzodioxan-5-yl) piperidine-4-carboxamide | 1.27 g | O1CCOC2=C1C=CC=C2N2CCC(CC2)C(=O)N | C14H18N2O3
